US09145407B2
4-[2-(2-Aminopyridin-4-yl)-4-chlorophenoxy]-5-chloro-2-fluoro-N-(5-fluoropyrimidin-2-yl)benzenesulfonamide dihydrochloride
To a solution of 4-[2-(2-aminopyridin-4-yl)-4-chlorophenoxy]-5-chloro-N-(ethoxymethyl)-2-fluoro-N-(5-fluoropyrimidin-2-yl)benzenesulfonamide (Preparation 15, 67 mg, 0.12 mmol) in methanol (1 mL) was added a 2.0 M solution of hydrogen chloride in water (1 mL, 2.00 mmol). The reaction mixture was heated at 60° C. for 6 hours then concentrated in vacuo. The residue was freeze dried from acetonitrile-water to afford the title compound as a white solid (69 mg).

reactant | 4-[2-(2-aminopyridin-4-yl)-4-chlorophenoxy]-5-chloro-N-(ethoxymethyl)-2-fluoro-N-(5-fluoropyrimidin-2-yl)benzenesulfonamide | 0.12 mmol, 67 mg | NC1=NC=CC(=C1)C1=C(OC2=CC(=C(C=C2Cl)S(=O)(=O)N(C2=NC=C(C=N2)F)COCC)F)C=CC(=C1)Cl | C24H19Cl2F2N5O4S
reactant | hydrogen chloride | Cl | ClH
reactant | water | 2.00 mmol, 1 mL | O | H2O
solvent | methanol | 1 mL | CO | CH4O
product | 4-[2-(2-Aminopyridin-4-yl)-4-chlorophenoxy]-5-chloro-2-fluoro-N-(5-fluoropyrimidin-2-yl)benzenesulfonamide dihydrochloride | 69 mg | Cl.Cl.NC1=NC=CC(=C1)C1=C(OC2=CC(=C(C=C2Cl)S(=O)(=O)NC2=NC=C(C=N2)F)F)C=CC(=C1)Cl | InChI=1S/C21H13Cl2F2N5O3S.2ClH/c22-12-1-2-17(14(6-12)11-3-4-27-20(26)5-11)33-18-8-16(25)19(7-15(18)23)34(31,32)30-21-28-9-13(24)10-29-21;;/h1-10H,(H2,26,27)(H,28,29,30);2*1H
